US06515011B2
To a stirred solution of L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide (120 mg, 0.316 mmol), the sodium salt of 2-cyclopropyl-2-(2-pyridyl)hydroxyacetic acid from the previous step (63 mg, 0.326 mmol), and NMM (36 μL, 0.326 mmol) in DMF (5 mL) at ambient temperature under nitrogen atmosphere was added BOP reagent (173 mg, 0.391 mmol). The mixture was stirred at ambient temperature for 3 h. The solvent was removed under reduced pressure. The residue was partitioned between EtOAc (100 mL) and saturated aqueous NaHCO3 (100 mL). The EtOAc layer was separated, dried over anhydrous Na2SO4, and filtered. The filtrate solvent was removed under reduced pressure and the residue was purified by preparative reverse phase HPLC using a gradient of 95:5 to 0:100 (water:CH3CN containing 0.1% TFA) over 60 min with a flow rate of 60 mL/min. After concentration of desired fractions in vacuo, the two diastereomers of 1-(2-cyclopropyl-2-(2-pyridyl)hydroxyacetyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide were obtained as amorphous solids (isomer 1 (less polar) 50 mg; HPLC RT=3.06 min, method A; LC-MS m/z=543.2; 1H NMR, 400 MHz, CDCl3, 7.81 ppm (d, 1H), 7.74 ppm (t, 2H), 7.28 ppm (d, 2H), 7.22 ppm (d, 1H), 7.14 ppm (t, 1H), 5.45 ppm (br s, 1H), 5.0 ppm (br s, 1H), 4.8 ppm (d, 1H), 4.6 ppm (dd, 1H), 4.42 ppm (d, 1H), 4.35 ppm (m, 1H), 4.2 ppm (m, 1H), 3.43 ppm (m, 1H), 3.1 ppm (br t, 1H), 2.25 ppm (m, 1H), 2.1 ppm (m, 1H), 1.8 ppm (m, 2H), 1.48 ppm (m, 1H), 1.45 ppm (s, 9H), 1.0 ppm (m, 1H), 0.85 ppm (m, 1H), 0.65 ppm (m, 1H), 0.5 ppm (m, 1H); isomer 2 (more polar)38 mg; HPLC RT=2.99 min, method A; LC-MS m/z=543.2).

reactant | L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide | 0.316 mmol, 120 mg | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)Cl | C18H26ClN3O3
reactant | sodium | [Na] | Na
reactant | 2-cyclopropyl-2-(2-pyridyl)hydroxyacetic acid | C1(CC1)C(C(=O)O)(C1=NC=CC=C1)O | C10H11NO3
reactant | NMM | 0.326 mmol, 36 μL | CN1CCOCC1 | C5H11NO
reactant | BOP reagent | 0.391 mmol, 173 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-cyclopropyl-2-(2-pyridyl)hydroxyacetyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide | C1(CC1)C(C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)(C1=NC=CC=C1)O | C28H35ClN4O5
